US06110952
A solution of 4-methyl-5-trifluoroacetamidobenzoxazole (3.45 g, 14.13 mmol) in a 20% mixture of water in methanol (20 mL) is treated with anhydrous potassium carbonate (7.80 g, 56.52 mmol). A reflux condenser is attached and the mixture is heated to 90° C. with an oil bath for five hours. The mixture is cooled to room temperature and distributed between ethyl acetate (100 mL) and water (100 mL). The ethyl acetate layer is dried over magnesium sulfate and concentrated under reduced pressure to yield a black residue. This material is purified by chromatography (silica gel, 50% ethyl acetate/hexanes) to afford 2.30 g of 5-amino-4-methylbenzoxazole as an off-white solid.

reactant | 4-methyl-5-trifluoroacetamidobenzoxazole | 14.13 mmol, 3.45 g | CC1=C(C=CC2=C1N=CO2)NC(C(F)(F)F)=O | C10H7F3N2O2
reactant | water | O | H2O
reactant | potassium carbonate | 56.52 mmol, 7.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 100 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 5-amino-4-methylbenzoxazole | 2.30 g | NC=1C=CC2=C(N=CO2)C1C | C8H8N2O
